Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
lisinopril / finasteride
 
Attending: ___.
 
Chief Complaint:
Urinary retention; elevated PSA
 
Major Surgical or Invasive Procedure:
Transurethral resection of Prostate

 
History of Present Illness:
___ BPH (on Flomax), elevated PSA scheduled for prostate biopsy 
but went into urinary retention, now with foley in place.
 
Past Medical History:
PMH
ABNORMAL LIVER FUNCTION TESTS
BACK PAIN
CORONARY ARTERY DISEASE
HEARTBURN
HYPERLIPIDEMIA
COLONIC ADENOMA
ABNORMAL PSA
LUTS
PSH
CORONARY BYPASS SURGERY ___
in ___. Dr. ___ graft to the
LAD & saphenous vein grafts to the PDA, diagonal obtuse marginal
I%II
 
Social History:
___
Family History:
no CVA or MI, no cancer
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
___ coude Foley in place, secured to medial thigh. UOP is 
pygidium orange. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
None for this admission
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. He patient received ___ antibiotic 
prophylaxis and the patient's postoperative course was 
uncomplicated. Mr. ___ received intravenous antibiotics and 
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and Foley catheter was removed with an active 
voiding trial.  Post void residuals were checked.  He was unable 
to void and scanned for over 600cc and was in moderate distress. 
A ___ coude was replaced with ease. His urine was clear yellow 
and without clots. He remained a-febrile throughout his hospital 
stay.  At discharge, Mr. ___ had training with help of 
interpreter on foley care/hygiene. His pain was well controlled 
with oral pain medications, was tolerating regular diet, 
ambulating without assistance.  He was given pyridium and oral 
pain medications on discharge and a course of antibiotics along 
with explicit instructions to follow up in clinic for repeat 
trial of void. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. esomeprazole magnesium 40 mg oral DAILY 
3. Losartan Potassium 25 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 80 mg PO QPM 
2. esomeprazole magnesium 40 mg oral DAILY 
3. Losartan Potassium 25 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Aspirin 81 mg PO DAILY 
DO NOT RESUME UNTIL URINE HAS BEEN CLEAR-YELLOW FOR THREE DAYS 
6. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
8. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg HALF TAB TO ONE FULL TAB tablet(s) by mouth 
Q4HRS Disp #*10 Tablet Refills:*0
9. Phenazopyridine 200 mg PO TID Duration: 3 Days 
RX *phenazopyridine [Pyridium] 100 mg ONE tablet(s) by mouth 
Q8HRS Disp #*15 Tablet Refills:*0
10. Senna 8.6 mg PO DAILY Duration: 2 Doses 
11. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days 
Comienza ___, el ___ 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg UNA 
tablet(s) by mouth twice a day Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary retention requiring indwelling foley catheter, elevated 
PSA
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
oPlease also reference the nursing handout and instructions on 
routine care and hygiene

oYour Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

___ NOT allow anyone outside your urologist/team representative 
remove your Foley for any reason.

oWear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o Do NOT drive if you have a Foley in place (for your safety-but 
of course you may be a passenger
 
Followup Instructions:
___